US06432949B1
N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-6-(4dimethylaminobutylamino)pyridine-3-carboxamide
Using an analogous procedure to that described in Example 21, 6-chloro-N-[2-chloro-5-(2morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-3-carboxamide was reacted with 4-dimethylaminobutylamine to give the title compound in 61% yield; NMR Spectrum: (DMSOd6) 1.49 (m, 4H), 2.09 (s, 6H), 2.19 (t, 2H), 3.51 (m, 4H), 3.71 (m, 4H), 6.49 (d, 1H), 7.1 (d, 1H), 7.23 (m, 2H), 7.5 (d, 1H), 7.68 (d, 1H), 7.89 (d, 1H), 8.06 (s, 1H), 8.64 (s, 1H), 9.64 (s, 1H), 10.44 (s, 1H); Mass Spectrum: M+H+ 552 and 554.

reactant | 6-chloro-N-[2-chloro-5-(2morpholinopyrid-4-ylcarbonylamino)phenyl]pyridine-3-carboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)Cl | C22H19Cl2N5O3
reactant | 4-dimethylaminobutylamine | CN(CCCCN)C | C6H16N2
product | N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-6-(4dimethylaminobutylamino)pyridine-3-carboxamide | 61% yield | ClC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(=O)C=1C=NC(=CC1)NCCCCN(C)C | C28H34ClN7O3
